US06194409B1
A mixture of 4.70 g of phenol and 35 mL of dry N,N-dimethylformamide was added dropwise to a stirred suspension of 1.30 g of sodium hydride (95%, dispersion in mineral oil) in 15 mL of dry N,N-dimethylformamide at 5° C. Stirring was continued for 2 hours at 5° C., followed by dropwise addition of 5.20 mL of 2-bromoethyl methyl ether (technical grade, 90%) at 5° C. The mixture was allowed to come to room temperature and stirring was continued for 72 hours. The mixture was poured into water and extracted with diethyl ether. The combined extracts were washed with water and brine, dried (sodium sulfate) and concentrated to give 5.90 g of (2-methoxy-ethoxy)-benzene as an oil. EI-MS: 159 (M+).

reactant | phenol | 4.70 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 1.30 g | [H-].[Na+]
reactant | 2-bromoethyl methyl ether | 5.20 mL | COCCBr | C3H7BrO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | (2-methoxy-ethoxy)-benzene | 5.90 g | COCCOC1=CC=CC=C1 | C9H12O2
